US04579862
A solution of ε-caprolactone (30 g) in 2-propanol (250 ml) at 0° C. was saturated with hydrogen bromide gas. Sulphuric acid (18M, 5 ml) was then added and the solution was heated under reflux for 16 hours. The reaction mixture was poured into water (200 ml), basified with sodium hydrogen carbonate, and extracted with diethyl ether. The combined extracts were dried (Na2SO4) and the solvent was evaporated off under reduced pressure to give the crude product which was purified by column chromatography (alumina, dichloromethane) to give isopropyl 6-bromohexanoate as a pale-yellow oil.

reactant | ε-caprolactone | 30 g | C1(CCCCCO1)=O | C6H10O2
reactant | hydrogen bromide | Br | BrH
reactant | Sulphuric acid | 18M, 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 2-propanol | 250 ml | CC(C)O | C3H8O
solvent | water | 200 ml | O | H2O
product | isopropyl 6-bromohexanoate | BrCCCCCC(=O)OC(C)C | C9H17BrO2
